US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID PYRIDAZIN-3-YLAMIDE
Following the procedure of Example 28, making variations only as required to use pyridazin-3-ylamine in place of 2-aminopyridine to react with 6-[4-(2-trifluoromethylbenzoyl)-piperazin-1-yl]pyridazine-3-carbonyl chloride, the title compound was obtained as a white powder (17.3% yield). 1H NMR (300 MHz, CDCl3) δ 10.81, 9.05, 8.70, 8.13, 7.87-7.57, 7.39, 6.95, 4.16-3.80, 3.40. 13C NMR (300 MHz, CDCl3) δ 167.7, 162.3, 160.1, 148.6, 144.1, 132.4, 129.6, 128.1, 127.2, 126.9, 118.3, 112.1, 43.4, 44.6, 44.3, 41.3. MS (ES+) m/z 458.3 (M+1).

reactant | pyridazin-3-ylamine | N1=NC(=CC=C1)N | C4H5N3
reactant | 6-[4-(2-trifluoromethylbenzoyl)-piperazin-1-yl]pyridazine-3-carbonyl chloride | FC(C1=C(C(=O)N2CCN(CC2)C2=CC=C(N=N2)C(=O)Cl)C=CC=C1)(F)F | C17H14ClF3N4O2
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID PYRIDAZIN-3-YLAMIDE | N1=NC(=CC=C1)NC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C21H18F3N7O2
